US07947683B2
3-(1,1-difluoro-4-penten-1-yl)-4-methyl-5-phenyl-4H-1,2,4-triazole
To a solution of 2,2-difluoro-5-hexenohydrazide (275 mg) in MeOH (8 ml) were added K2CO3 (232 mg) and N,N′-dimethylbenzenecarboximidamide hydrochloride (309 mmol). The solution was heated at reflux for 3 days. Volatiles were evaporated in vacuo and the crude was purified by column chromatography (DCM:MeOH=95 to 5) to give 45 mg of the title compound. MS (m/z): 264[MH]+.

reactant | 2,2-difluoro-5-hexenohydrazide | 275 mg | FC(C(=O)NN)(CCC=C)F | C6H10F2N2O
reactant | K2CO3 | 232 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N′-dimethylbenzenecarboximidamide hydrochloride | 309 mmol | Cl.CNC(=NC)C1=CC=CC=C1
solvent | MeOH | 8 ml | CO | CH4O
product | 3-(1,1-difluoro-4-penten-1-yl)-4-methyl-5-phenyl-4H-1,2,4-triazole | 45 mg | FC(CCC=C)(F)C1=NN=C(N1C)C1=CC=CC=C1 | C14H15F2N3
